US06096811
N-(1'-carboxy-2'-methylbutyl)-bicyclo[2.2.1]hept-5-en-2,3-dicarboximide
To a suspension of (dl)-isoleucine (2.03 g, 15.5 mmol) in toluene (40 mL) was added triethylamine (2.4 mL, 17.2 mmol). The mixture was heated to reflux temperature and bicyclo[2.2.1]hept-5-en-2,3-dicarboxylic anhydride (2.53 g, 15.5 mmol) was added. The reaction mixture was kept at reflux temperature and allowed to react for 4 hrs. After cooling to room temperature, the solvent was evaporated and the residue dissolved in H2O. The aqueous solution was washed with EtOAc, acidified with conc. HCl until pH=1, and extracted with EtOAc. The organic phase was washed with 5% HCl and brine and dried over Na2SO4. Removal of the solvent gave a white solid (3.72 g) which was recrystallized from EtOAc/hexane to yield the pure product as colorless crystals: mp=109° C.

reactant | (dl)-isoleucine | 15.5 mmol, 2.03 g | NC(C(C)CC)C(=O)O | C6H13NO2
reactant | triethylamine | 17.2 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | bicyclo[2.2.1]hept-5-en-2,3-dicarboxylic anhydride | 15.5 mmol, 2.53 g | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1'-carboxy-2'-methylbutyl)-bicyclo[2.2.1]hept-5-en-2,3-dicarboximide | 3.72 g | C(=O)(O)C(C(CC)C)N1C(=O)C2C3C=CC(C2C1=O)C3 | C15H19NO4
